US04888337
6-[2-hexyl-tetrahydrofuran-5-yloxy]-hexyl-thiazolium-chloride
Analogous to example 9 but starting from 2-hexyl-2,3-dihydrofuran and 6-chlorohexanol. Substitution of the chloro atom was performed with thiazole instead of pyridine in the same conditions but on a mixture of cis+trans isomers leading to the title compound as an highly hygroscopic compound.

reactant | 2-hexyl-2,3-dihydrofuran | C(CCCCC)C1OC=CC1 | C10H18O
reactant | 6-chlorohexanol | ClCCCCCCO | C6H13ClO
reactant | thiazole | S1C=NC=C1 | C3H3NS
product | 6-[2-hexyl-tetrahydrofuran-5-yloxy]-hexyl-thiazolium-chloride | [Cl-].C(CCCCC)C1OC(CC1)OCCCCCCC=1SC=C[NH+]1 | InChI=1S/C19H33NO2S.ClH/c1-2-3-4-7-10-17-12-13-19(22-17)21-15-9-6-5-8-11-18-20-14-16-23-18;/h14,16-17,19H,2-13,15H2,1H3;1H
